### ISSUE TITLE
`goal_tactic` does not work for certain tactics, as compared to Lean4 or `load_sorry`

### ISSUE THREAD

**Issue by attilajam** [stanford-centaur/PyPantograph#82]
The following Lean code works properly in a Lean environment, or when using `load_sorry`. But when running it using `goal_tactic`, it does not work. There are also other tactics that result in the same error, but I only remember one case of this happening. If needed I can provide more:
```lean
example (x y : ℝ) : x * y = 0 → x = 0 ∨ y = 0 := by
  contrapose
  rw [not_or]
  intro ⟨hx, hy⟩
  exact mul_ne_zero hx hy
```
But when running this Python code, it does not work:
```python
from pantograph.server import Server
thm_statement="forall (x y : ℝ) , x * y = 0 → x = 0 ∨ y = 0"
imports=["Mathlib.Data.Nat.Factorization.Basic", "Mathlib.Data.Nat.Prime.Basic", "Mathlib.Data.Real.Basic"]
server = Server(imports=imports, project_path="./")
next = server.goal_start(thm_statement)

tactics = ["intro x y", "contrapose","rw [not_or]", "intro ⟨hx, hy⟩","exact mul_ne_zero hx hy"]
print(next,"\n")
for tactic in tactics: 
    print(tactic)
    next = server.goal_tactic(next, goal_id=0, tactic=tactic)
    print(next, "\n")
```
This code will fails when the tactic `intro ⟨hx, hy⟩` is reached. We can rewrite the tactics to this, and it works, but that doesn't solve the outlying issue that goal_tactic is not compatible with many tactics. 
```python
tactics = ["intro x y", "contrapose","rw [not_or]","intro h", "rcases h with ⟨hx, hy⟩","exact mul_ne_zero hx hy"]
```

**Comment by lenianiva** [comment]
Composite tactics don't work, and this may be one of them.
